US07153848B2
Methyl 1-allyl-3-cyclohexyl-2-(4,5-dibromo-1-vinyl-1H-imidazol-2-yl)-1H-indole-6-carboxylate
Methyl 1-allyl-3-cyclohexyl-2-(4,5-dibromo-1-(2-bromoethyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate was dissolved in a solution of sodium methoxide (0.5 M in Methanol from Aldrich, 10 mL) and the light yellow solution was heated to 65° C. for 1h. Methylene chloride (20 mL) was then added, followed by ice-water (50 mL). The aqueous layer was then adjusted to pH 5, and the organic layer was separated, dried (Na2SO4), filtered and evaporated to give the title compound in a form pure enough for use in the next step. 1H NMR (500 MHz, CDCl3) δ 0.8–1.90 (m, 10 H), 2.50 (m, 1H), 3.92 (s, 3H), 4.55 (dd, 1H, J=4.5, 16.5 Hz), 4.70 (dd, 1H, J=6.5, 16.5 Hz), 5.85 (dd, 1H, J=6.0, 17.5 Hz), 5.05 (d, 1H, J=10.5 Hz), 5.09 (d, 1H, J=9.0 Hz), 5.26 (d, 1H, J=13.5 Hz), 5.7–5.80 (m, 1H), 6.56 (dd, 1H, J=9.0, 16.0 Hz), 7.77 (d, 1H, J=8.0 Hz), 7.82 (d, 1H, J=8.0 Hz), 8.07 (s, 1H).

reactant | Methyl 1-allyl-3-cyclohexyl-2-(4,5-dibromo-1-(2-bromoethyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate | C(C=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C=1N(C(=C(N1)Br)Br)CCBr | C24H26Br3N3O2
reactant | Methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | sodium methoxide | 0.5 M, 10 mL | C[O-].[Na+]
product | Methyl 1-allyl-3-cyclohexyl-2-(4,5-dibromo-1-vinyl-1H-imidazol-2-yl)-1H-indole-6-carboxylate | C(C=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C=1N(C(=C(N1)Br)Br)C=C | C24H25Br2N3O2
